US04663333
Preparation of 3-[(3,5-dichloro-4-hydroxyphenyl)thio]-N-methyl-N-[2-(2-pyridinyl)ethyl]propanamide
The title compound was prepared according to the method of Example 4, from N-methyl-N-[2-(2-pyridinyl)ethyl]-2-propenamide (2.5 g. 0.013 mole), 2,6-dichloro-4-mercaptophenol (2.56 g, 0.013 mole) and triethylamine (5 ml), m.p. about 120°-123° C.

reactant | N-methyl-N-[2-(2-pyridinyl)ethyl]-2-propenamide | 0.013 mole, 2.5 g | CN(C(C=C)=O)CCC1=NC=CC=C1 | C11H14N2O
reactant | 2,6-dichloro-4-mercaptophenol | 0.013 mole, 2.56 g | ClC1=C(C(=CC(=C1)S)Cl)O | C6H4Cl2OS
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 3-[(3,5-dichloro-4-hydroxyphenyl)thio]-N-methyl-N-[2-(2-pyridinyl)ethyl]propanamide | ClC=1C=C(C=C(C1O)Cl)SCCC(=O)N(CCC1=NC=CC=C1)C | C17H18Cl2N2O2S
